US09358222B2
3-(4-Chlorophenyl)-3-(2-hydroxymethylcyclohexylmethoxy)-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one (NU8359)
The named compound was synthesised from 3-(4-Chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one (400 mg, 1.01 mmol, 1 equiv.) and cis-1,2-cyclohexane-dimethanol (728 mg, 5.05 mmol, 5 equiv.) using General Procedure A and obtained as a yellow solid (337 mg, 64%). 1H NMR (300 MHz, CDCl3): mixture of diastereoisomers: 8.08-7.93 (m, 3H, O2N—C—CH and C(O)═C═CH), 7.58-7.54 (m, 2H, Ar—H), 7.43-7.36 (m, 2H, Ar—H), 7.23-7.11 (m, 5H, Ar—H), 4.61 and 4.25 (d: AB, J=15.0 Hz, 2H, N—CH2); and 4.59 and 4.36 (d: AB, J=15.0 Hz, 2H, N—CH2), 3.53-3.24 (m, 2H, HO—CH2), 2.87-2.61 (m, 2H, OCH2), 1.87-1.09 (m, 10H, CH). 13C NMR (75 MHz, CDCl3): mixture of diastereoisomers: 168.25, 147.42, 145.37, 145.20, 144.84, 144.76, 137.28, 137.12, 134.97, 134.88, 133.03, 131.55, 131.41, 130.15, 130.10, 129.98, 129.94, 128.81, 128.69, 127.98, 127.92, 123.91, 123.81, 123.33, 123.30, 123.10, 123.06, 95.07, 94.97, 63.91, 63.57, 63.44, 63.31, 42.50, 42.43, 40.77, 39.99, 37.18, 27.40, 27.09, 26.21, 26.16, 23.77, 23.44, 23.29. Anal.: calc. for C29H29ClN2O5+0.3 CH2Cl2+0.1 H2O: C, 64.18; H, 5.49; N, 5.11. Found: C, 64.34; H, 5.49; N, 4.95.

reactant | 3-(4-Chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one | 1.01 mmol, 400 mg, 1 equiv. | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)[N+](=O)[O-])O | C21H15ClN2O4
reactant | cis-1,2-cyclohexane-dimethanol | 5.05 mmol, 728 mg, 5 equiv. | [C@@H]1([C@H](CCCC1)CO)CO | C8H16O2
product | 3-(4-Chlorophenyl)-3-(2-hydroxymethylcyclohexylmethoxy)-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one | 337 mg, 64% | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)[N+](=O)[O-])OCC1C(CCCC1)CO | C29H29ClN2O5
